US07282501B2
Step B: 3-(4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2-{[methyl-(2,2,2-trifluoro-acetyl)-amino]-methyl}-phenyl)-propionic acid tert-butyl ester
A solution of 3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2-[(2,2,2-trifluoro-acetylamino)-methyl]-phenyl}-propionic acid tert-butyl ester (151 mg, 0.28 mmol) in dry DMF (10 mL) was cooled in an ice bath and treated with NaH (22 mg, 0.55 mmol, 60% oil dispersion). After the reaction mixture was stirred for 25 min, iodomethane (0.15 mL, 3.0 mmol) was added, and the reaction was allowed to warm to ambient temperature gradually. After 4 h, more iodomethane (0.10 mL, 2 mmol) was added. The mixture was stirred overnight and was partitioned between EtOAc and aqueous LiCl solution. The organic layer was washed with brine, dried (Na2SO4), and concentrated. The residue was purified by silica gel radial chromatography (CH2Cl2/EtOAc 100/0 to 95/5) to give the title compound (111 mg, 73%).

reactant | 3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2-[(2,2,2-trifluoro-acetylamino)-methyl]-phenyl}-propionic acid tert-butyl ester | 0.28 mmol, 151 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CNC(C(F)(F)F)=O)=O | C28H31F3N2O5
reactant | NaH | 0.55 mmol, 22 mg | [H-].[Na+]
reactant | iodomethane | 3.0 mmol, 0.15 mL | IC | CH3I
reactant | iodomethane | 2 mmol, 0.10 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2-{[methyl-(2,2,2-trifluoro-acetyl)-amino]-methyl}-phenyl)-propionic acid tert-butyl ester | 111 mg, 73% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CN(C(C(F)(F)F)=O)C)=O | C29H33F3N2O5
